US08877815B2
Synthesis of (S)-Tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1-(2-cyanoethyl)-1H-tetrazol-5-yl)ethylcarbamate
To a solution of (S)-tert-butyl 3-(3′-chlorobiphenyl-4-yl)-1-(2-cyanoethylamino)-1-oxopropan-2-ylcarbamate (1.07 g, 2.500 mmol) in THF (50 ml) at room temperature was added Ph3P (1.640 g, 6.25 mmol), and the mixture was stirred at room temperature for 10 minutes. Then, to the mixture at 0° C. was added DIAD (1.215 ml, 6.25 mmol) and 2 minutes later was slowly added trimethylsilyl azide (0.828 ml, 6.25 mmol). The resulting light yellow suspension was slowly warmed up to room temperature and stirred overnight. The reaction mixture was concentrated under reduced pressure. The obtained residue was purified by flash chromatography (silica gel, 25 to 50% EtOAc/Heptane) and gave the title compound: 423 mg (yield: 85%). LCMS (condition B): 453.2 (M+1); retention time=1.23 min.

reactant | (S)-tert-butyl 3-(3′-chlorobiphenyl-4-yl)-1-(2-cyanoethylamino)-1-oxopropan-2-ylcarbamate | 2.500 mmol, 1.07 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)NCCC#N)NC(OC(C)(C)C)=O | C23H26ClN3O3
reactant | Ph3P | 6.25 mmol, 1.640 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 6.25 mmol, 1.215 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | trimethylsilyl azide | 6.25 mmol, 0.828 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (S)-Tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1-(2-cyanoethyl)-1H-tetrazol-5-yl)ethylcarbamate | yield: 85% | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1CCC#N)NC(OC(C)(C)C)=O | C23H25ClN6O2
